US06103902
Within 20 min. 61 ml (633 mmol) of POCl3 were added dropwise to 34 ml (200 mmol) of diisopropyl ethylamine at 5° C. to 10° C. followed by stirring at 5° C. to 10° C. for 15 min. Then 23.5 g (66 mmol) of 4-[4,6-dihydroxy-5-(2-methoxy-phenoxy)-pyrimidine-2-yl]-pyridine-2-carboxylic acid amide were added in four portions under cooling followed by stirring at 90° C. for 25 hr. The reaction mixture was cooled down to 20° C. and transferred to a new flask together with 50 ml of dichloromethane. Volatile components (i.e. excess of POCl3) was removed by evaporation from 20° C. to 70° C. followed by re-distillation with 100 ml of toluene. After adding 250 ml of dichloromethane to the residue (88 g of a black oil) the solution was heated to 35° C. to 40° C. and 80 ml of de-ionized water were added dropwise within 30 min. whereby the pH was kept constant by the subsequent addition of 28% NaOH solution (60 ml) within 5 to 6 hr. The mixture was stirred at 35° C. to 40° C. for 30 min. followed by removal of dichloromethane by distillation. The resulting suspension was allowed to cool down to 20° C. and was stirred for additional 2 hr. The solid was filtered off under suction, washed with 500 ml of water and dried at 70° C., 2000 Pa for 16 hr. There were obtained 21.3 g (86% of theory) of 4-[4,6-dichloro-5-(2-methoxy-phenoxy)-pyrimidine-2-yl]-pyridine-2-carbonitrile with a HPLC purity of 94.3% (w/w).

reactant | POCl3 | 633 mmol, 61 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | diisopropyl ethylamine | 200 mmol, 34 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-[4,6-dihydroxy-5-(2-methoxy-phenoxy)-pyrimidine-2-yl]-pyridine-2-carboxylic acid amide | 66 mmol, 23.5 g | OC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)O)C1=CC(=NC=C1)C(=O)N | C17H14N4O5
reactant | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-[4,6-dichloro-5-(2-methoxy-phenoxy)-pyrimidine-2-yl]-pyridine-2-carbonitrile | 21.3 g, 86% | ClC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)Cl)C1=CC(=NC=C1)C#N | C17H10Cl2N4O2
